* E:\Documents\Masters\Project\Simulation\GaN.asc
* Generated by LTspice 24.1.9 for Windows.
X§U2 0 N003 N005 DRIVE 0 N006 N001 DRIVE N002 N001 NC_01 Vin EPC23101
X§U4 N006 N002 0 EPC2001
C1 N002 N001 100n
X§X1 N004 N003 N005 PWMGen
V1 N004 0 0.25
V2 DRIVE 0 5
V3 Vin 0 27.8

* block symbol definitions
.subckt PWMGen Vset PWMH PWML
A3 0 N001 0 N002 0 0 PWMH 0 AND vhigh=3.3 vlow=0
R3 N002 N001 1k
D3 N002 N001 1N4148
C3 N002 0 {CDT}
V2 N003 0 PULSE(0 1 0 {1/FREQ} 0 0 {1/FREQ})
A4 0 N006 0 N007 0 0 PWML 0 AND vhigh=3.3 vlow=0
R4 N007 N006 1k
D4 N007 N006 1N4148
C4 N007 0 {CDT}
A6 N004 N005 0 0 0 N006 N001 0 SCHMITT vhigh=3.3 vlow=0 vt=0 vh=0
R5 N004 N003 150
R6 N005 Vset 150
.param DT=100n CDT={DT/(0.069*1k)} FREQ=20k
.ends PWMGen

.model D D
.lib C:\Users\conor\AppData\Local\LTspice\lib\cmp\standard.dio
.inc EPC\EPC23101\EPC23101_model.net
.inc EPC\EPCGaNLibrary.lib
.tran 100m
.lib EPC\EPCGanLibrary.lib
.backanno
.end
